US06339045B1
Production of N-benzyl-4-methoxy-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide (compound No. I-45)
1.04 g (0.0029×2.2 mol) of 3-(trifluoromethyl) phenol was dissolved in about 10 ml of DMF. The obtained solution was further mixed with 0.24 g (ca. 60% in mineral oil; 0.0029×2.0 mol) of NaH and then with 0.94 g (0.0029 mol) of N-benzyl-6-bromo-4-methoxy-2-pyridine carboxamide. After adding 0.15 g (0.0029×0.5 mol) of copper chloride (I), the solution was stirred at about 120° C. for about 5 hours, and then allowed to stand for cooling to room temperature. After the reaction solution was distributed in ethyl acetate-saturated sodium bicarbonate water, the organic phase of the solution was washed with saturated brine and dried with anhydrous sodium sulfate, followed by concentration thereof. Thereafter, the concentrated solution was purified by silica gel column chromatography (eluting solution: ethyl acetate/hexane), thereby obtaining an aimed product.

reactant | 3-(trifluoromethyl) phenol | 2.2 mol, 1.04 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | NaH | 2.0 mol, 0.24 g | [H-].[Na+]
reactant | N-benzyl-6-bromo-4-methoxy-2-pyridine carboxamide | 0.0029 mol, 0.94 g | C(C1=CC=CC=C1)NC(=O)C1=NC(=CC(=C1)OC)Br | C14H13BrN2O2
solvent | DMF | about 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper chloride | 0.5 mol, 0.15 g | [Cu](Cl)Cl
product | N-benzyl-4-methoxy-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide | C(C1=CC=CC=C1)NC(=O)C1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)C(F)(F)F | C21H17F3N2O3
